US04539419
A solution of 1.7 g of 4-[[8-acetyl-7-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-naphthalenyl]oxy]butanoic acid methyl ester and 30 ml of 1N sodium hydroxide in 60 ml of methanol was stirred at reflux for 1 hour. The methanol was removed in vacuo and the aqueous solution was acidified to pH 3. The gummy precipitate was extracted with methylene chloride, the extract was washed with water, dried (magnesium sulfate) and concentrated in vacuo to an oil. The oil was triturated with hexane-ether to yield 1.4 g, m.p. 71°-75° C. (85%) of 4-[[8-acetyl-7-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-naphthalenyl]oxy]butanoic acid.

reactant | 4-[[8-acetyl-7-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-naphthalenyl]oxy]butanoic acid methyl ester | 1.7 g | COC(CCCOC1=CC2=C(C(=CC=C2C=C1)OCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C(C)=O)=O | C32H38O9
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 4-[[8-acetyl-7-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]-2-naphthalenyl]oxy]butanoic acid | 1.4 g, 85% | C(C)(=O)C=1C(=CC=C2C=CC(=CC12)OCCCC(=O)O)OCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C31H36O9
